US06407112B1
(S)-2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(S)-2a-(4-hydroxybutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (1.96 g, 8.0 mmol) was dissolved in acetonitrile (50 ml). Then, carbon tetrabromide (3.31 g, 10.0 mmol) and triphenylphosphine (2.72 g, 9.6 mmol) were added to the resulting solution and stirred at room temperature for four hours. The solvent was evaporated from the reaction mixture, and ethyl acetate, water and hydrochloric acid (1N) were added to the resulting residue. The reaction product was extracted with ethyl acetate, and the extracted product was washed with saturated saline solution, successively dried over anhydrous sodium sulfate, followed by evaporating the solvent. The resulting product was separated and purified by means of silica gel column chromatography, whereby 2.40 g (yield 97%) of the above-described object compound could be obtained.

reactant | (S)-2a-(4-hydroxybutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 8.0 mmol, 1.96 g | OCCCC[C@]12C(NC=3C=CC=C(C13)CCC2)=O | C15H19NO2
reactant | carbon tetrabromide | 10.0 mmol, 3.31 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 9.6 mmol, 2.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (S)-2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 2.40 g, yield 97% | BrCCCC[C@]12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
